US07683168B2
Sodium carbonate (2.12 g) was added to the solution of homopiperazine (10.0 g; 5 eq.) and ethyl 5-bromovalerate (4.18 g; 1 eq.) in CH3CN (120 mL). The reaction was stirred at room temperature for 6 h. The reaction mixture was filtered thru a celite pad. The filtrate was concentrated. The remaining residual was dissolved in CHCl3 (120 mL), washed by H2O (50 mL×3) and brine (50 mL×1), dried by Na2SO4 and concentrated to give 5-[1,4]diazepan-1-yl-pentanoic acid ethyl ester (4.0 g), which was carried on for the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 4.09 (q, 2H, J=7.0 Hz), 2.90 (m, 4H), 2.63 (m, 4H), 2.47 (t, 2H, J=7.0 Hz), 2.29 (t, 2H, J=7.0 Hz), 2.07 (bs, 1H), 1.73 (m, 2H), 1.60 (m, 2H), 1.48 (m, 2H), 1.22 (t, 3H, J=7.0 Hz).

reactant | Sodium carbonate | 2.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | homopiperazine | 10.0 g, 5 eq. | N1CCNCCC1 | C5H12N2
reactant | ethyl 5-bromovalerate | 4.18 g, 1 eq. | BrCCCCC(=O)OCC | C7H13BrO2
solvent | CH3CN | 120 mL | CC#N | C2H3N
product | 5-[1,4]diazepan-1-yl-pentanoic acid ethyl ester | 4.0 g | C(C)OC(CCCCN1CCNCCC1)=O | C12H24N2O2
